US07488844B2
(i) Ethyl(2S)-3-[4-(2-{bis[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]-2-ethoxy-propanoate
To a solution of N,N-bis[4-(trifluoromethyl)benzyl]amine (0.733 g, 2.20 mmol) and {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid (0.593 g, 2.00 mmol) in methylene chloride (20 mL) were added N,N-diisopropylethylamine (0.80 mL, 4.6 mmol) and O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (0.674 g, 2.10 mmol) and the reaction mixture was stirred at room temperature for 4 h. The resulting solution was diluted with methylene chloride (130 mL) and the organic phase was washed with 5% HCl (3×75 mL), saturated aqueous NaHCO3 (2×75 mL), and brine (75 mL), dried over Na2SO4, and concentrated in vacuo. Purification on a prepacked column of silica gel (Isolute® SPE Column, 70 g/150 mL) with methanol (0-1% gradient) in methylene chloride as the eluent yielded 0.91 g (74%) of a whitish oil.

reactant | N,N-bis[4-(trifluoromethyl)benzyl]amine | 2.20 mmol, 0.733 g | FC(C1=CC=C(CNCC2=CC=C(C=C2)C(F)(F)F)C=C1)(F)F | C16H13F6N
reactant | {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid | 2.00 mmol, 0.593 g | C(C)O[C@@H](CC1=CC=C(OCC(=O)O)C=C1)C(=O)OCC | C15H20O6
reactant | N,N-diisopropylethylamine | 4.6 mmol, 0.80 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 2.10 mmol, 0.674 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 130 mL | C(Cl)Cl | CH2Cl2
product | Ethyl(2S)-3-[4-(2-{bis[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]-2-ethoxy-propanoate | 0.91 g, 74% | FC(C1=CC=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CC2=CC=C(C=C2)C(F)(F)F)C=C1)(F)F | C31H31F6NO5
